US08895776B2
Step B: Preparation of 3-Fluorophenyl(phenyl)carbamic Chloride
A 3 liter three-neck mechanically stirred flask under N2 containing a solution of 3-fluoro-N-phenylaniline (86 g, 460 mmol) in 1.2 L dichloromethane was cooled in an ice bath to 0° C., and then triphosgene (150 g, 505 mmol) was added. A solution of pyridine (52 mL, 640 mmol) in dichloromethane (200 mL) was added in a dropwise fashion. Initial addition resulted in a temperature spike to 25° C. after the first 10 mL had been added over 10 min. The addition was paused, and the reaction mixture was stirred for 1 h while cooling to 5° C. Addition of the pyridine solution was again commenced at a rate of 5 mL/min, at which a reaction temperature of 5-10° C. was maintained. After addition was complete (about 1 h), the reaction had proceeded to completion, and was quenched by the slow addition of ice water (500 g). Gas formation from the quench was controlled by adjusting the stirring speed, as decomposition was largely a function of the mixing of the two immiscible layers. Gas effluent was passed through a 20% sodium hydroxide trap, until all gas evolution had ceased (about 3 h). The aqueous layer was removed, and was then extracted with an additional 300 mL of dichloromethane. The organic extracts were combined, dried over MgSO4, and the solvent was removed. Clean product was readily isolated as a viscous, pink oil, which gradually formed a pale pink solid upon seeding with crystals. LCMS m/z (%)=250.0 [M+H]+; 1H NMR (CDCl3, 400 MHz) δ 7.00-7.07 (m, 1H), 7.10 (d, J=9.6 Hz, 1H), 7.15 (d, J=8.1 Hz, 1H), 7.35 (d, J=7.7 Hz, 2H), 7.35-7.41 (m, 2H), 7.42-7.48 (m, 2H).

reactant | 3-fluoro-N-phenylaniline | 460 mmol, 86 g | FC=1C=C(NC2=CC=CC=C2)C=CC1 | C12H10FN
reactant | triphosgene | 505 mmol, 150 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | pyridine | 640 mmol, 52 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 1.2 L | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3-Fluorophenyl(phenyl)carbamic Chloride | FC=1C=C(C=CC1)N(C(=O)Cl)C1=CC=CC=C1 | C13H9ClFNO
